US08012966B2
A stirred mixture of 3-trifluoromethyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (2.6 g, 9.4 mmol) in 40 ml of N,N-dimethylformamide was cooled down to 0° C. in an ice-water bath, added with sodium hydride slowly. Upon the completion of the addition, the reaction mixture was cooled down to −30˜−40° C. and added with (2-bromo-ethyl)-diethyl-amine hydrobromide (2.95 g, 11.3 mmol) in 15 ml of N,N-dimethylformamide. The reaction mixture was stirred at room temperature overnight and extracted with saturated sodium chloride (100 ml) and dichloromethane (100 ml). The combined organic phase was washed with saturated sodium chloride, dried with anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography with dichloromethane:methanol:ammonia (16:1:0.1) as eluents to give 5-(2-diethylamino-ethyl)-3-trifluoromethyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (1 g, 28.4) as a yellow solid.

reactant | 3-trifluoromethyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 9.4 mmol, 2.6 g | C(C)OC(=O)C1=C(C=2C(NCCC2N1)=O)C(F)(F)F | C11H11F3N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | (2-bromo-ethyl)-diethyl-amine hydrobromide | 11.3 mmol, 2.95 g | Br.BrCCN(CC)CC
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 5-(2-diethylamino-ethyl)-3-trifluoromethyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 1 g | C(C)OC(=O)C1=C(C=2C(N(CCC2N1)CCN(CC)CC)=O)C(F)(F)F | C17H24F3N3O3
